US06153608
Cis-2,5-Dimethyl-1-[(4-methyl-5-isoquinolinyl)sulfonyl]piperazine dihydrochloride
Using 0.43 g of cis-1-(tert-butoxycarbonyl)-2,5-dimethylpiperazine and 0.48 g of 5-chlorosulfonyl-4-methylisoquinoline, the procedure of Example 1 was otherwise repeated to provide 0.2 g of the objective compound (white crystals).

reactant | cis-1-(tert-butoxycarbonyl)-2,5-dimethylpiperazine | 0.43 g | C(C)(C)(C)OC(=O)N1[C@H](CN[C@H](C1)C)C | C11H22N2O2
reactant | 5-chlorosulfonyl-4-methylisoquinoline | 0.48 g | ClS(=O)(=O)C1=C2C(=CN=CC2=CC=C1)C | C10H8ClNO2S
product | Cis-2,5-Dimethyl-1-[(4-methyl-5-isoquinolinyl)sulfonyl]piperazine dihydrochloride | 0.2 g | Cl.Cl.C[C@@H]1N(C[C@@H](NC1)C)S(=O)(=O)C1=C2C(=CN=CC2=CC=C1)C | InChI=1S/C16H21N3O2S.2ClH/c1-11-7-17-9-14-5-4-6-15(16(11)14)22(20,21)19-10-12(2)18-8-13(19)3;;/h4-7,9,12-13,18H,8,10H2,1-3H3;2*1H/t12-,13-;;/m0../s1
